US04912107
7.5 g (29.8 mmole) (E,E)-1-(2-nitrophenyl)-4-phenyl-1,3-butadiene and 2.9 g (29.9 mmole) maleic acid imide are heated in 10 ml toluene to 130° C. for 12 hours. After addition of 1.5 g (15.5 mmole) maleic acid imide it is heated at 130° C. for a further 24 hours. After cooling, it is diluted with 40 ml dichloromethane, the product filtered off, and crystallized from ethanol. One obtains 1,3,3a,4,7,7a-hexahydro-4-(2-nitrophenyl)-1,3-dioxo-7-phenyl-2H-isoindole in the form of pale yellow crystals, which decompose from 200°-208° C.

reactant | (E,E)-1-(2-nitrophenyl)-4-phenyl-1,3-butadiene | 29.8 mmole, 7.5 g | [N+](=O)([O-])C1=C(C=CC=C1)\C=C\C=C\C1=CC=CC=C1 | C16H13NO2
reactant | maleic acid imide | 29.9 mmole, 2.9 g | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | maleic acid imide | 15.5 mmole, 1.5 g | C1(C=CC(N1)=O)=O | C4H3NO2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 1,3,3a,4,7,7a-hexahydro-4-(2-nitrophenyl)-1,3-dioxo-7-phenyl-2H-isoindole | [N+](=O)([O-])C1=C(C=CC=C1)C1C2C(NC(C2C(C=C1)C1=CC=CC=C1)=O)=O | C20H16N2O4
